US08975254B2
c) 2,6-dichloro-4-iodobenzonitrile
4-amino-2,6-dichlorobenzonitrile (1.65 g, 8.82 mmol) was stirred in 7.5 mL of 12M HCl solution. The reaction mixture was cooled with ice-bath. Sodium nitrite (0.6 g, 8.82 mmol) dissolved in 6 mL of water was added drop-wise to the flask under cold condition, followed by the drop-wise addition of cold potassium iodide (5.86 g, 35.3 mmol) solution in water (12 mL). The mixture was allowed to stir at RT for a day. After the completion of the reaction, the mixture was extracted with ethyl acetate, washed with 10% Na2SO3 solution and brine. The organic layer was dried over anhydrous Na2SO4 and evaporated. The solid obtained was washed with heptane-ethyl acetate mixture (5:1) and dried under vacuum. Yield 1.09 g. 1H NMR (400 MHz; d6-DMSO): δ 6.71 (s, 1H), 6.81 (s, 1H).

reactant | 4-amino-2,6-dichlorobenzonitrile | 8.82 mmol, 1.65 g | NC1=CC(=C(C#N)C(=C1)Cl)Cl | C7H4Cl2N2
reactant | Sodium nitrite | 8.82 mmol, 0.6 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 35.3 mmol, 5.86 g | [I-].[K+]
solvent | HCl | 12M, 7.5 mL | Cl | ClH
solvent | water | 6 mL | O | H2O
solvent | water | 12 mL | O | H2O
product | 2,6-dichloro-4-iodobenzonitrile | ClC1=C(C#N)C(=CC(=C1)I)Cl | C7H2Cl2IN
